US06252092B1
Synthesis of 5-propyl Benzodioxole
4-Propyl catechol (10.7 g; 70 mmols) was dissolved in a 90:10 (v/v) DMF/dichloromethane mixture (17 ml). The resulting solution was added very slowly to a suspension of anhydrous K2CO3 (14.1 g; 87 mmols) in a 90:10 (v/v) DMF/dichloromethane mixture (85 ml), maintained at 115-120° C.

reactant | 4-Propyl catechol | 70 mmols, 10.7 g | C(CC)C=1C=C(C(O)=CC1)O | C9H12O2
reactant | K2CO3 | 87 mmols, 14.1 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF dichloromethane | 17 ml | CN(C)C=O.ClCCl
solvent | DMF dichloromethane | 85 ml | CN(C)C=O.ClCCl
product | 5-propyl Benzodioxole | C(CC)C=1C=CC2=C(COO2)C1 | C10H12O2
